US06653471B2
A solution of 30 mL (360 mmol) of DMF in 200 mL of methylene chloride is cooled to 5° C. under a nitrogen atmosphere. To this is added 16 mL (180 mmol) of phosphorus oxychloride, maintaining the temperature<10° C. After addition is complete the reaction is stirred for a ½ hour. To this is added dropwise a solution of 4.0 g (18 mmol) of 4-cyano-pyridin-2-yl-1H-pyrrole-3-carboxylic acid methyl ester dissolved in 100 mL of methylene chloride. The reaction mixture is then heated to 40° C. for 48 hours. The reaction mixture is cooled to room temperature and slowly poured in 300 mL of saturated sodium bicarbonate. The organic layer is then extracted from the aqueous layer, dried (Na2SO4) and evaporated. The residue is chromatographed on 150 grams of silica gel using 1/1 ethyl acetate/hexanes as the eluant. Appropriate fractions are combined to yield 0.75 g of 4-(3-cyano-pyridin-2-yl)-5-formyl-1H-pyrrole-3-carboxylic acid methyl ester. 1H NMR (CDCl3) δ10.1 (s, 1H), 9.4 (s, 1H), 8.8 (m, 1H), 8.1 (m, 1H), 7.75 (m, 1H), 7.5 (m, 1H), 3.75 (s, 3H) Mass spectrum: m/e=256.2 (p+1). TLC (10/1 ethyl acetate/chloroform) Rf=0.7. Continued elution of the column afforded 2.5 grams of the starting pyrrole methyl ester.

reactant | DMF | 360 mmol, 30 mL | CN(C)C=O | C3H7NO
reactant | phosphorus oxychloride | 180 mmol, 16 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 4-cyano-pyridin-2-yl-1H-pyrrole-3-carboxylic acid methyl ester | 18 mmol, 4.0 g | COC(=O)C1=CN(C=C1)C1=NC=CC(=C1)C#N | C12H9N3O2
reactant | sodium bicarbonate | 300 mL | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 4-(3-cyano-pyridin-2-yl)-5-formyl-1H-pyrrole-3-carboxylic acid methyl ester | 0.75 g | COC(=O)C1=CNC(=C1C1=NC=CC=C1C#N)C=O | C13H9N3O3
